US09102703B2
N-(3-(2-Chlorophenyl)allyl)-4-methyl-N-(prop-2-yn-1-yl)benzene sulfonamide (S19).
To an oven-dried, 100 mL three-necked round-bottomed flask equipped with a stir bar, two septa and a nitrogen inlet adaptor was added 4-methyl-N-(prop-2-yn-1-yl)benzenesulfonamide (S17) (1.0 g, 4.8 mmol) and potassium carbonate (2.69 g, 19.2 mmol). The flask was evacuated and refilled with nitrogen three times, then MeCN (60 mL) was added. (E)-1-(3-Bromoprop-1-en-1-yl)-2-chlorobenzene (S14) (1.66 g, 7.2 mmol) was added dropwise via syringe, turning the solution dark yellow. The mixture was heated at reflux and stirred overnight. The consumption of the starting material was monitored by TLC (AcOEt/n-hexane 1:9). The solvent was removed in vacuo, and the reaction residue was taken up in sat'd NaHCO3 solution (70 mL) and extracted with ether (3×50 mL). The combined organic layers were washed with brine (70 mL), dried over Na2SO4, gravity filtered, and concentrated under reduced pressure. The reaction residue was purified by silica gel flash chromatography, eluting with AcOEt/n-hexane 1:9, to provide 1.35 g of the title compound as a light yellow solid in a 78% yield.

reactant | 4-methyl-N-(prop-2-yn-1-yl)benzenesulfonamide | 4.8 mmol, 1.0 g | CC1=CC=C(C=C1)S(=O)(=O)NCC#C | C10H11NO2S
reactant | potassium carbonate | 19.2 mmol, 2.69 g | C([O-])([O-])=O.[K+].[K+]
reactant | (E)-1-(3-Bromoprop-1-en-1-yl)-2-chlorobenzene | 7.2 mmol, 1.66 g | BrC/C=C/C1=C(C=CC=C1)Cl | C9H8BrCl
product | N-(3-(2-Chlorophenyl)allyl)-4-methyl-N-(prop-2-yn-1-yl)benzene sulfonamide | 1.35 g, 78% yield | ClC1=C(C=CC=C1)C=CCN(S(=O)(=O)C1=CC=C(C=C1)C)CC#C | C19H18ClNO2S
